US06727264B1
2-(6-CHLORO-1H-INDOL-1-YL)PHENYL METHYL ETHER:
Prepared by Procedure C and Scheme O using 6-chloro-1H-indole and 1-iodo-2-methoxybenzene: ESMS m/e: 257.9 (M+H)+.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 1-iodo-2-methoxybenzene | IC1=C(C=CC=C1)OC | C7H7IO
product | 2-(6-CHLORO-1H-INDOL-1-YL)PHENYL METHYL ETHER | COC1=C(C=CC=C1)N1C=CC2=CC=C(C=C12)Cl | C15H12ClNO
